* e:\fossee\esim\library\subcircuitlibrary\sn54h87\sn54h87.cir

* u2  net-_u1-pad1_ net-_u10-pad2_ d_inverter
* u3  net-_u1-pad2_ net-_u3-pad2_ d_inverter
* u11  net-_u1-pad3_ net-_u10-pad2_ net-_u11-pad3_ d_nand
* u4  net-_u3-pad2_ net-_u13-pad2_ d_inverter
* u9  net-_u1-pad4_ net-_u10-pad2_ net-_u14-pad1_ d_nand
* u7  net-_u3-pad2_ net-_u14-pad2_ d_inverter
* u10  net-_u1-pad5_ net-_u10-pad2_ net-_u10-pad3_ d_nand
* u8  net-_u3-pad2_ net-_u15-pad2_ d_inverter
* u5  net-_u1-pad6_ net-_u10-pad2_ net-_u12-pad1_ d_nand
* u6  net-_u3-pad2_ net-_u12-pad2_ d_inverter
* u13  net-_u11-pad3_ net-_u13-pad2_ net-_u1-pad10_ d_xor
* u14  net-_u14-pad1_ net-_u14-pad2_ net-_u1-pad9_ d_xor
* u15  net-_u10-pad3_ net-_u15-pad2_ net-_u1-pad7_ d_xor
* u12  net-_u12-pad1_ net-_u12-pad2_ net-_u1-pad8_ d_xor
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ gndpwr gndpwr gndpwr gndpwr port
a1 net-_u1-pad1_ net-_u10-pad2_ u2
a2 net-_u1-pad2_ net-_u3-pad2_ u3
a3 [net-_u1-pad3_ net-_u10-pad2_ ] net-_u11-pad3_ u11
a4 net-_u3-pad2_ net-_u13-pad2_ u4
a5 [net-_u1-pad4_ net-_u10-pad2_ ] net-_u14-pad1_ u9
a6 net-_u3-pad2_ net-_u14-pad2_ u7
a7 [net-_u1-pad5_ net-_u10-pad2_ ] net-_u10-pad3_ u10
a8 net-_u3-pad2_ net-_u15-pad2_ u8
a9 [net-_u1-pad6_ net-_u10-pad2_ ] net-_u12-pad1_ u5
a10 net-_u3-pad2_ net-_u12-pad2_ u6
a11 [net-_u11-pad3_ net-_u13-pad2_ ] net-_u1-pad10_ u13
a12 [net-_u14-pad1_ net-_u14-pad2_ ] net-_u1-pad9_ u14
a13 [net-_u10-pad3_ net-_u15-pad2_ ] net-_u1-pad7_ u15
a14 [net-_u12-pad1_ net-_u12-pad2_ ] net-_u1-pad8_ u12
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u2 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u3 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u11 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u4 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u9 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u7 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u10 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u8 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u5 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u6 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_xor, NgSpice Name: d_xor
.model u13 d_xor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_xor, NgSpice Name: d_xor
.model u14 d_xor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_xor, NgSpice Name: d_xor
.model u15 d_xor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_xor, NgSpice Name: d_xor
.model u12 d_xor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
.tran 0e-06 0e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
